US04582837
2-(2'-Dimethylamino-4'-methanesulfonylamino-phenyl)-imidazo[4,5-b]pyridine
An amount of 0.49 gm 2-(2'-dimethylamino-4'-aminophenyl)-imidazo[4,5-b]pyridine dihydrochloride was dissolved in 10 ml of pyridine, 0.38 gm of methanesulfonyl chloride were added dropwise, and the mixture was stirred for two days at ambient temperature. The reaction mixture was poured onto water, and the solution obtained was extracted with ethyl acetate. The ethyl acetate phases were washed with common salt solution and concentrated by evaporation. The residue was triturated with 2N acetic acid, subjected to filtration, and washed with water.

reactant | 2-(2'-dimethylamino-4'-aminophenyl)-imidazo[4,5-b]pyridine dihydrochloride | 0.49 gm | Cl.Cl.CN(C1=C(C=CC(=C1)N)C=1NC=2C(=NC=CC2)N1)C
reactant | methanesulfonyl chloride | 0.38 gm | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2'-Dimethylamino-4'-methanesulfonylamino-phenyl)-imidazo[4,5-b]pyridine | CN(C1=C(C=CC(=C1)NS(=O)(=O)C)C=1NC=2C(=NC=CC2)N1)C | C15H17N5O2S
